US09340549B2
A resealable tube was charged with (S)-3-(4-(2-fluoro-5-(pyrimidin-2-yl)pyridin-3-yl)phenyl)-5,5-dimethyl-4-phenyloxazolidin-2-one (0.034 g, 0.077 mmol), dioxane (2.0 mL), and water (0.667 mL). Concentrated HCl (37%) (0.167 mL) was added, the system was flushed with argon, the tube was sealed, and the reaction mixture was stirred at 100° C. for 1.5 hours. The reaction mixture was next partitioned between EtOAc and saturated aqueous NaHCO3 solution. The aqueous phase was extracted with EtOAc. The combined organic phases were washed with brine, dried over anhydrous Na2SO4, filtered, and concentrated to afford (S)-5,5-dimethyl-3-(4-(2-oxo-5-(pyrimidin-2-yl)-1,2-dihydropyridin-3-yl)phenyl)-4-phenyloxazolidin-2-one (0.034 g, 0.078 mmol, 100% yield) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.92 (s, 3H), 1.65 (s, 3H), 5.48 (s, 1H), 7.18-7.45 (m, 6H), 7.48-7.59 (m, 2H), 7.65-7.75 (m, 2 H), 8.32 (d, J=2.45 Hz, 1H), 8.43 (d, J=2.54 Hz, 1H), 8.80 (d, J=4.89 Hz, 2H), 12.13 (br. s., 1H). m/z (ESI) 439 (M+H)+.

reactant | (S)-3-(4-(2-fluoro-5-(pyrimidin-2-yl)pyridin-3-yl)phenyl)-5,5-dimethyl-4-phenyloxazolidin-2-one | 0.077 mmol, 0.034 g | FC1=NC=C(C=C1C1=CC=C(C=C1)N1C(OC([C@@H]1C1=CC=CC=C1)(C)C)=O)C1=NC=CC=N1 | C26H21FN4O2
reactant | dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
reactant | HCl | 0.167 mL | Cl | ClH
solvent | water | 0.667 mL | O | H2O
product | (S)-5,5-dimethyl-3-(4-(2-oxo-5-(pyrimidin-2-yl)-1,2-dihydropyridin-3-yl)phenyl)-4-phenyloxazolidin-2-one | 0.078 mmol, 0.034 g, 100% yield | CC1([C@@H](N(C(O1)=O)C1=CC=C(C=C1)C=1C(NC=C(C1)C1=NC=CC=N1)=O)C1=CC=CC=C1)C | C26H22N4O3
